US07723336B2
N6-(trans-4-aminocyclohexyl)-N8-(4-ethyloxyphenyl)-7-phenylimidazo[1,2-b]pyridazine-6,8-diamine
6-chloro-N-(4-ethoxyphenyl)-7-phenylimidazo[1,2-b]pyridazin-8-amine (0.0201 g, 0.058 mmol) from 1d and (trans)-cyclohexane-1,4-diamine (0.1702 g, 1.49 mmol) were heated at 165° C. for 6 d. After cooling to room temperature, the mixture was taken up in CH2Cl2 and water, and the layers were separated. The aqueous layer was extracted with CH2Cl2 (2×). The organic layers were combined, dried over Na2SO4, filtered, and concentrated in vacuo. The residue was purified using preparative HPLC. The appropriate fraction was collected, and NaHCO3 (solid) was added to it. It was concentrated in vacuo not to dryness, and extracted with CH2Cl2 (2×). The organic layers were combined, dried over Na2SO4, filtered, and concentrated in vacuo to give the above titled compound (1.5 mg, 4.0% yield). LC/MS, m/e 443.40 (M+1). HPLC RT, 2.29 min. YMC ODSC18 column (4.6×50 mm). 0%-100% B. Solvent B: (90% MeOH, 10% H2O, 0.1% TFA). Solvent A: (10% MeOH, 90% H2O, 0.1% TFA). Gradient, start % B=0, final % B=100, gradient time 4 min, hold at 100% B 1 min, flow rate 4 mL/min.

reactant | 6-chloro-N-(4-ethoxyphenyl)-7-phenylimidazo[1,2-b]pyridazin-8-amine | 0.058 mmol, 0.0201 g | ClC=1C(=C(C=2N(N1)C=CN2)NC2=CC=C(C=C2)OCC)C2=CC=CC=C2 | C20H17ClN4O
reactant | (trans)-cyclohexane-1,4-diamine | 1.49 mmol, 0.1702 g | [C@H]1(CC[C@H](CC1)N)N | C6H14N2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | N6-(trans-4-aminocyclohexyl)-N8-(4-ethyloxyphenyl)-7-phenylimidazo[1,2-b]pyridazine-6,8-diamine | 1.5 mg, 4.0% yield | N[C@@H]1CC[C@H](CC1)NC=1C(=C(C=2N(N1)C=CN2)NC2=CC=C(C=C2)OCC)C2=CC=CC=C2 | C26H30N6O
